US04927833
1,1-Dichloro-3-(4-chlorophenyl)-3-hydroxy-4-(1,2,4-(1H)-triazolyl)but-1-ene
A solution of 5.0 g (0.014 mol) of 1,1-dichloro-3-(4-chlorophenyl)-3-hydroxy-4-(1,2,4-(1H)-triazolyl)butane and 3.85 g (0.043 mol) of sodium 1,2,4-triazolide in 75 mL of dimethylformamide was stirred at room temperature for 28 hours. To this solution was added 200 mL of water and 200 mL of diethyl ether. The organic phase was separated from the aqueous phase and then washed thrice with 100 mL portions of water and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure to give a yellow oil which solidified on standing overnight. This material was recrystallized from benzene to give the above named product in a yield of 2.6 g (58 percent of theoretical), melting at 95°-99° C.

reactant | 1,1-dichloro-3-(4-chlorophenyl)-3-hydroxy-4-(1,2,4-(1H)-triazolyl)butane | 0.014 mol, 5.0 g | ClC(CC(CN1N=CN=C1)(O)C1=CC=C(C=C1)Cl)Cl | C12H12Cl3N3O
reactant | sodium 1,2,4-triazolide | 0.043 mol, 3.85 g | N1N=[C-]N=C1.[Na+]
reactant | water | 200 mL | O | H2O
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 1,1-Dichloro-3-(4-chlorophenyl)-3-hydroxy-4-(1,2,4-(1H)-triazolyl)but-1-ene | ClC(=CC(CN1N=CN=C1)(O)C1=CC=C(C=C1)Cl)Cl | C12H10Cl3N3O
